* source STABILIZATOR_DE_TENSIUNE_CU_ERS
R_R42         N236790 N237028  220 TC=0,0 
R_RC5         N235664 N235676  0.47 TC=0,0 
D_D5         0 N236434 BZX84-C5V1 
R_R11         N236006 N235556  100 TC=0,0 
R_R38         N236948 0  1k TC=0,0 
Q_Q21         N235982 N237290 0 QBC817-25 
R_R12         N235988 N251087  100 TC=0,0 
Q_QESR1         N235556 N235982 N235782 QBC846B 
R_R29         N236796 N236736  1k TC=0,0 
R_R17         N236212 N236428  1k TC=0,0 
Q_Q4         N235982 N236218 N236006 QBC807-25 
R_R6         N235686 N235988  15k TC=0,0 
R_R19         N236644 0  1k TC=0,0 
X_P1         N236684 N251860 N251087 POT PARAMS: SET=1 VALUE=10k
Q_Q3         N235982 N251860 N236650 QBC817-25 
V_VCC         N235556 0 30.6
R_R27         N236082 N236638  1k TC=0,0 
R_R30         N237278 0  220 TC=0,0 
D_D8         N235556 N236212 SMLS14BET 
Q_QESR2         N235556 N235782 N235650 QMJD31C 
R_RC4         N235664 N235676  0.47 TC=0,0 
Q_Q20         N235982 N235650 N235686 QBC817-25 
Q_Q1         N236218 N236218 N236000 QBC807-25 
R_R39         N237338 0  33 TC=0,0 
R_R10         N236000 N235556  100 TC=0,0 
Q_Q19         N236434 N236082 N235802 QBC807-25 
Q_Q24         N236736 N236736 N237278 QBC817-25 
Q_Q5         N236650 N236736 N237284 QBC817-25 
Q_Q12         N235556 N236736 N236790 QBC817-25 
X_P2         N237028 N237290 N237338 POT PARAMS: SET=0.58 VALUE=100
R_RC6         N235676 N235686  0.47 TC=0,0 
R_R18         N236428 N236644  1k TC=0,0 
Q_Q2         N236218 N236434 N236650 QBC817-25 
R_R2         N235802 N235556  100 TC=0,0 
R_RC1         N235650 N235664  1 TC=0,0 
R_R41         N236684 N236948  10k TC=0,0 
R_R8         N237284 0  220 TC=0,0 
Q_Q22         N235788 N235788 N235556 QBC807-25 
Q_Q23         N236082 N236082 N235788 QBC807-25 
R_R28         N236638 N236796  1k TC=0,0 
R_RLOAD4         N235686 N250064  1k TC=0,0 
R_RLOAD1         N235686 N250068  1k TC=0,0 
R_RLOAD2         N250064 0  680 TC=0,0 
R_RLOAD3         N250068 0  680 TC=0,0 
